US04735952
A mixture of ethyl 4-chloro-7-(trifluoromethyl)-3-quinoline-carboxylate (3.04 g) and 4-aminobenzoic acid (1.37 g) in tetrahydrofuran (53 ml) was stirred under reflux for 10 hours and cooled to room temperature. The precipitates were collected and washed with tetrahydrofuran to give 4-[[3-ethoxycarbonyl-7-(trifluoromethyl)-4-quinolyl]amino]benzoic acid hydrochloride (2.69 g) as yellow powder.

reactant | ethyl 4-chloro-7-(trifluoromethyl)-3-quinoline-carboxylate | 3.04 g | ClC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C13H9ClF3NO2
reactant | 4-aminobenzoic acid | 1.37 g | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
solvent | tetrahydrofuran | 53 ml | O1CCCC1 | C4H8O
product | 4-[[3-ethoxycarbonyl-7-(trifluoromethyl)-4-quinolyl]amino]benzoic acid hydrochloride | 2.69 g | Cl.C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1NC1=CC=C(C(=O)O)C=C1)C(F)(F)F | InChI=1S/C20H15F3N2O4.ClH/c1-2-29-19(28)15-10-24-16-9-12(20(21,22)23)5-8-14(16)17(15)25-13-6-3-11(4-7-13)18(26)27;/h3-10H,2H2,1H3,(H,24,25)(H,26,27);1H
